US05616599
77(a) 2-Butyl-4-isobutyryl-1-{4-[2-(trityltetrazol-5-yl)phenyl]phenyl}methylimidazole-5-carbonitrile
Following a procedure similar to that described in Example 74(a), but using 1.42 g of 2-butyl-4-isobutyrylimidazole-5-carbonitrile (prepared as described in Preparation 27), 4.49 g of 4-[2-(trityltetrazol-5-yl)phenyl]benzyl bromide and 0.76 g of potassium t-butoxide, 3.04 g of the title compound was obtained as crystals, melting at 115°-116° C.

reactant | 2-butyl-4-isobutyrylimidazole-5-carbonitrile | 1.42 g | C(CCC)C=1NC(=C(N1)C(C(C)C)=O)C#N | C12H17N3O
reactant | 4-[2-(trityltetrazol-5-yl)phenyl]benzyl bromide | 4.49 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(CBr)C=C1 | C33H25BrN4
reactant | potassium t-butoxide | 0.76 g | CC(C)([O-])C.[K+]
product | 2-Butyl-4-isobutyryl-1-{4-[2-(trityltetrazol-5-yl)phenyl]phenyl}methylimidazole-5-carbonitrile | 3.04 g | C(CCC)C=1N(C(=C(N1)C(C(C)C)=O)C#N)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C45H41N7O
